US06492383B1
(1H-Indol-5-yl)-(2-{4-[(2-piperazin-1-yl-ethylamino)-methyl]-phenyl}-thieno[3,2-b]pyridine-7-yl)-amine
The title compound was prepared from 2-piperazin-1-yl-ethylamine and 4-[7-(1H-indol-5-ylamino)-thieno(3,2-b]pyridin-2-yl]-benzaldehyde by a procedure analogous to example 17. LC-MS: 483 (MH+); HPLC RT: 3.41 minutes.

reactant | 2-piperazin-1-yl-ethylamine | N1(CCNCC1)CCN | C6H15N3
reactant | 4-[7-(1H-indol-5-ylamino)-thieno(3,2-b]pyridin-2-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C22H15N3OS
product | (1H-Indol-5-yl)-(2-{4-[(2-piperazin-1-yl-ethylamino)-methyl]-phenyl}-thieno[3,2-b]pyridine-7-yl)-amine | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)CNCCN2CCNCC2 | C28H30N6S
